US07119203B2
Part A. To a mixture of 2-chloro-5-iodopyridine (6.76 g, 28.2 mmol) in 50 mL N,N-dimethylformamide was added 1-buten-3-ol (24.4 mL, 282.3 mmol), palladium acetate (0.64 g, 2.82 mmol), tetrabutylammonium chloride (0.79 g, 2.82 mmol), and sodium bicarbonate (5.94 g, 70.6 mmol). The resulting mixture was stirred at 50° C. for 5 hr, and then quenched with water (20 mL). Subsequently, the mixture was diluted with 20 mL of ethyl acetate and filtered through a pack of celite. The organic layer was separated from the filtrate, and the aqueous layer was further extracted with ethyl acetate. The organics were combined, washed with saturated NaCl solution, and dried over magnesium sulfate. Chromatography (on silica, ethyl acetate/hexane) afforded the desired 4-(6-chloropyridin-3-yl)butan-2-one intermediate in the form of a yellow oil (4.01 g, 77% yield). MS MH+ for C9H10ClNO: calc. 184, found 184.

reactant | 2-chloro-5-iodopyridine | 28.2 mmol, 6.76 g | ClC1=NC=C(C=C1)I | C5H3ClIN
reactant | 1-buten-3-ol | 282.3 mmol, 24.4 mL | C=CC(C)O | C4H8O
reactant | sodium bicarbonate | 70.6 mmol, 5.94 g | C([O-])(O)=O.[Na+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium chloride | 2.82 mmol, 0.79 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 2.82 mmol, 0.64 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(6-chloropyridin-3-yl)butan-2-one | ClC1=CC=C(C=N1)CCC(C)=O | C9H10ClNO
